US06288122B1
Phenylmagnesium bromide (100 mL, 0.1 mol) was added dropwise to a stirring solution of 4,4′-difluorobenzophenone (20 g, 0.092 mol) in t-butylmethyl ether (150 mL) at rt. After the addition was complete the reaction was heated at reflux for 3 h. The solution was cooled to rt and was poured in to ice cold aqueous 1.0 M HCl (100 mL). The organics were extracted with EtOAc (2×50 mL) and dried (Na2SO4). Concentration under reduced pressure gave bis(4-fluorophenyl)phenylmethanol as a pale brown oil. After drying in vacuo for 2 h the crude material was used in the next reaction without any further purification.

reactant | Phenylmagnesium bromide | 0.1 mol, 100 mL | C1(=CC=CC=C1)[Mg]Br
reactant | 4,4′-difluorobenzophenone | 0.092 mol, 20 g | FC1=CC=C(C(=O)C2=CC=C(C=C2)F)C=C1 | C13H8F2O
reactant | HCl | 1.0 M, 100 mL | Cl | ClH
solvent | t-butylmethyl ether | 150 mL | C(C)(C)(C)OC | C5H12O
product | bis(4-fluorophenyl)phenylmethanol | FC1=CC=C(C=C1)C(O)(C1=CC=CC=C1)C1=CC=C(C=C1)F | C19H14F2O
